US04230878
Preparation of p-(4-pentadecenylamino)-N-(phenylsulfonyl)benzamide
A solution of 31.4 g. of benzenesulfonamide in 250 ml. of dry dimethylacetamide is added dropwise, with stirring and cooling, to a suspension of 5.5 g. of sodium hydride in 100 ml. of dry dimethylacetamide over 30 minutes at room temperature. Stirring is continued for a further 30 minutes. In the meantime, a mixture of 36.2 g. of 4-(4-pentadecenylamino)benzoic acid in 1200 ml. of methylene chloride, 300 ml. of dimethoxyethane, and 40 ml. of thionyl chloride is refluxed for 1 hour and 15 minutes. The solution is evaporated to an oil which is co-evaporated twice with added dioxane to remove excess thionyl chloride. To the resulting oily residue of 4-(4-pentadecenylamino)benzoyl chloride hydrochloride is added, in one portion, the previously prepared mixture of sodium benzenesulfonamide in dimethylacetamide. The mixture is stirred for 30 minutes, without cooling, and is then filtered through a bed of diatomaceous earth. The filtrate is poured into 2 l. of water, and 250 ml. of saturated sodium chloride solution is added to coagulate the precipitate. The mixture is filtered and the product is washed with water and partially air dried. The product is dissolved in methylene chloride, the mixture is filtered through diatomaceous earth, and brine is added to break the emulsion. The layers are separated, the organic phase is dried over anhydrous sodium sulfate and filtered through a bed of 300 g. of hydrous magnesium silicate. The product is eluted with an additional 3 l. of methylene chloride. The first approximately 1 l. of filtrate is set aside and the remainder is evaporated to dryness. The residue is crystallized three times from toluene and the product is dried in the Abderhalden at 65° C. to provide the title compound as colorless crystals.

reactant | benzenesulfonamide | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | sodium hydride | [H-].[Na+]
reactant | 4-(4-pentadecenylamino)benzoic acid | C(CCC=CCCCCCCCCCC)NC1=CC=C(C(=O)O)C=C1 | C22H35NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | dimethoxyethane | C(OC)COC | C4H10O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | p-(4-pentadecenylamino)-N-(phenylsulfonyl)benzamide | C(CCC=CCCCCCCCCCC)NC1=CC=C(C(=O)NS(=O)(=O)C2=CC=CC=C2)C=C1 | C28H40N2O3S
